US08937091B2
2-piperidinoethyl-2-pyridylketone 8338
2-acetylpyridine (121 mg), piperidine (65 mg), and paraformaldehyde (36 mg) were reacted in dioxane (0.2 ml) at 150° C. for 2 hours.

reactant | 2-acetylpyridine | 121 mg | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | piperidine | 65 mg | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 36 mg | C=O | CH2O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-piperidinoethyl-2-pyridylketone | N1(CCCCC1)CCC(=O)C1=NC=CC=C1 | C13H18N2O
